US07622480B2
Preparation of 2-(2-{4-[1-(5-chlorothiophen-2-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-yl}-ethoxy)-3-methoxy-benzoic acid
This compound was prepared following the procedure described in example 4, part E and F starting with 2 g (6 mmol) of 1-(5-chlorothiophen-2-ylmethyl)-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine and 1.9 g (7.85 mmol) of 2-(2-chloroethoxy)-3-methoxy-benzoic acid methyl ester. After standard purification the overall yield was 14% (0.8 g).

reactant | 1-(5-chlorothiophen-2-ylmethyl)-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine | 6 mmol, 2 g | ClC1=CC=C(S1)CN1C=C(C=2C1=NC=CC2)C2CCNCC2 | C17H18ClN3S
reactant | 2-(2-chloroethoxy)-3-methoxy-benzoic acid methyl ester | 7.85 mmol, 1.9 g | COC(C1=C(C(=CC=C1)OC)OCCCl)=O | C11H13ClO4
product | 2-(2-{4-[1-(5-chlorothiophen-2-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidin-1-yl}-ethoxy)-3-methoxy-benzoic acid | yield was 14% | ClC1=CC=C(S1)CN1C=C(C=2C1=NC=CC2)C2CCN(CC2)CCOC2=C(C(=O)O)C=CC=C2OC | C27H28ClN3O4S
